US08283364B2
Scale-Up Procedure 1,1-Dimethylethyl 4-(4-fluoro-6-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate (D4a)
Under an argon atmosphere, bis(3,5,3′,5′-dimethoxy-dibenzylideneacetone) palladium (0) (6% mol, 1.1 mmol, 0.9 g), 1,1′-bis(diphenylphosphino)ferrocene (6% mol, 0.61 g), NatBuO (2 eq., 36 mmol, ˜3.5 g), were all dissolved in 1,4-dioxane (40 ml) and the system was purged through with argon. The mixture was stirred at room temperature for 15 minutes and 1,1-dimethylethyl 4-({[(2-bromo-6-fluoro-4-methylphenyl)amino]-carbonyl}amino)-1-piperidinecarboxylate (D32) (7.7 g, 17.9 mmol) was added at room temperature and the mixture was heated to 80° C. for 1.5 hours and then to 100° C. for extra 2 hours; the mixture was then cooled to room temperature, diluted with ethyl acetate and the organic phase obtained was washed with water and brine. Organics were dried over Na2SO4, filtered and the solvent was evaporated to afford the crude product that was purified by chromatography (ethyl acetate-n-hexane) to afford the title compound, 4.3 g, 70%, pale-grey solid, M+−H=348.

reactant | 1,1-dimethylethyl 4-({[(2-bromo-6-fluoro-4-methylphenyl)amino]-carbonyl}amino)-1-piperidinecarboxylate | 17.9 mmol, 7.7 g | BrC1=C(C(=CC(=C1)C)F)NC(=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C18H25BrFN3O3
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.61 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1,1-Dimethylethyl 4-(4-fluoro-6-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate | FC1=CC(=CC=2N(C(NC21)=O)C2CCN(CC2)C(=O)OC(C)(C)C)C | C18H24FN3O3
